US08471005B2
[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-pyridin-3-yl-phenyl)-amine was prepared from 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 4-pyridin-3-yl-phenylamine in an analogous manner to Example 1052a. Product isolated as a yellow foam (35 mg, 29%). LCMS (m/e) 394 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.84 (s, 1H), 8.72 (s, 1H), 8.59-8.51 (m, 1H), 7.97 (d, 1H, J=7.6 Hz), 7.86 (d, 1H, J=7.6 Hz), 7.71 (d, 1H, J=7.4 Hz), 7.48 (d, 2H, J=7.7 Hz), 7.44 (d, 1H, J=7.9 Hz), 7.39-7.31 (m, 1H), 7.19-7.11 (m, 1H), 7.11-7.02 (m, 2H), 6.96-6.85 (m, 2H), 3.86 (s, 3H).

reactant | 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)O | C13H11N3O2
reactant | 4-pyridin-3-yl-phenylamine | N1=CC(=CC=C1)C1=CC=C(C=C1)N | C11H10N2
product | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-pyridin-3-yl-phenyl)-amine | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C=2C=NC=CC2 | C24H19N5O
